US06620921B1
1-(2,3,5,6-Tetra-O-propanoyl-β-D-glucofuranosyl)uracil was dissolved in methanol saturated with ammonia (15 mL) and left at room temperature overnight. After concentrating in vacuo, the resulting residue was purified by flash silica chromatography, eluting with CHCl3/CH3OH/NH3 aq. (84:15:1), to give 1-βD-glucofuranosyluracil as a colourless solid (680 mg, 75%). A sample was recrystallised from EtOH to give the product as colourless needles, mp 175-176.5° C. (from EtOH), [α]D21=+9.91 (c 1.1 in H2O), (Found: C, 44.0; H, 5.0; N, 10.35. C10H14N2O7 requires C, 43.8; H, 5.15; N, 10.2%); δH (D2O) 7.82 (1H, d, J 8.1, 6-H), 5.79 (1H, d, J 8.1, 5-H), 5.75 (1H, s, 1′-H), 4.27-4.25 (2H, m, 2′- and 3′-H), 4.23 (1H, dd, J 8.6 and 2.7, 4′-H), 4.12 (1H, ddd, J 8.6, 5.4 and 2.7, 5′-H), 3.86 (1H, dd, J 12.1 and 2.7, 6′a-H), 3.37 (1H, dd, J 12.1 and 5.4, 6′b-H); δC (D2O) 166.8 (3-C), 151.9 (2-C), 142.6 (6-C), 101.5 (5-C), 92.4 (1′-C), 82.8 (4′-C), 80.7, 74.7 (2′- and 3′-C), 68.9 (5′-C), 63.8 (6′-C); m/z (FAB) 275.088448 (MH+, C10H15N2O7 requires 275.087926).

reactant | 1-(2,3,5,6-Tetra-O-propanoyl-β-D-glucofuranosyl)uracil | C(CC)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]1OC(CC)=O)[C@H](OC(CC)=O)COC(CC)=O)N1C(=O)NC(=O)C=C1 | C22H30N2O11
solvent | methanol | CO | CH4O
solvent | ammonia | 15 mL | N | H3N
product | 1-βD-glucofuranosyluracil | 680 mg, 75% | [C@@H]1([C@H](O)[C@@H](O)[C@H](O1)[C@H](O)CO)N1C(=O)NC(=O)C=C1 | C10H14N2O7
